US06545009B1
In the same manner as in Reference Example 6, ethyl 4-(2-amino-1-oxoethyl)benzoate hydrochloride and 4-trifluoromethylbenzoyl chloride were condensed to obtain ethyl 4-[2-(4-trifluoromethylbenzoylamino)-1-oxoethyl]benzoate. Yield: 53%. NMR (CDCl3) δ 1.43 (3H, t, J=7 Hz), 4.43 (2H, q, J=7 Hz), 5.01 (2H, d, J=4 Hz), 7.31 (1H, brs), 7.75 (2H, d, J=8 Hz), 7.95-8.25 (6H, m).

reactant | ethyl 4-(2-amino-1-oxoethyl)benzoate hydrochloride | Cl.NCC(=O)C1=CC=C(C(=O)OCC)C=C1
reactant | 4-trifluoromethylbenzoyl chloride | FC(C1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O
product | ethyl 4-[2-(4-trifluoromethylbenzoylamino)-1-oxoethyl]benzoate | Yield: 53% | FC(C1=CC=C(C(=O)NCC(=O)C2=CC=C(C(=O)OCC)C=C2)C=C1)(F)F | C19H16F3NO4
